US07041685B2
5-(3-Chloro-thiophen-2-yl)-3-(4-trifluoromethoxyphenyl)-[1,2,4]-oxadiazole
A solution of 3-chloro-thiophene-2-carbonyl chloride (72.4 mg, 0.4 mmol) and 4-trifluoromethoxybenzamidoxime (88 mg, 0.4 mmol) in dioxane:pyridine (11 mL, 10:1) was refluxed for 10 h and cooled to room temperature. To the stirred solution was added 20 mL of water to produce precipitates. The solid was collected by filtration and washed with dioxane:water (1:3), and dried to yield 103 mg (75%) of the title compound. 1H NMR (CDCl3): 8.20 (d, J=9.0 Hz, 2H), 7.62 (d, J=5.4 Hz, 1H), 7.35 (bd, J=9.3 Hz, 2H), 7.14 (d, J=5.1 Hz, 1H).

reactant | 3-chloro-thiophene-2-carbonyl chloride | 0.4 mmol, 72.4 mg | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
reactant | 4-trifluoromethoxybenzamidoxime | 0.4 mmol, 88 mg | FC(OC1=CC=C(C(N)=NO)C=C1)(F)F | C8H7F3N2O2
reactant | pyridine | 11 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 20 mL | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(3-Chloro-thiophen-2-yl)-3-(4-trifluoromethoxyphenyl)-[1,2,4]-oxadiazole | 103 mg, 75% | ClC1=C(SC=C1)C1=NC(=NO1)C1=CC=C(C=C1)OC(F)(F)F | C13H6ClF3N2O2S
